US03993650
L. 4-acetyl-3-(p-chlorobenzylamino)-5-methyl-2-(o-tolyl)-pyrrole
The title compound (M.p. 167°-70° C) is prepared from 4-acetyl-3-amino-5-methyl-2-(o-tolyl)-pyrrole (m.p. 258° C), obtained substantially in the same way as compound A), by transforming into the corresponding p-chlorobenzylidene derivative (m.p. 215° C) by reaction with p-chlorobenzaldehyde and subsequent catalytic hydrogenation.

reactant | 4-acetyl-3-amino-5-methyl-2-(o-tolyl)-pyrrole | C(C)(=O)C=1C(=C(NC1C)C1=C(C=CC=C1)C)N | C14H16N2O
reactant | p-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 4-acetyl-3-(p-chlorobenzylamino)-5-methyl-2-(o-tolyl)-pyrrole | C(C)(=O)C=1C(=C(NC1C)C1=C(C=CC=C1)C)NCC1=CC=C(C=C1)Cl | C21H21ClN2O
